US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[5-(2-hydroxy-ethyl)-isoxazol-3-yl]-benzamide
A mixture of 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(hydroxyimino-methyl)-benzamide (50 mg, 0.15 mmol), but-3-yn-1-ol (27 mg, 0.38 mmol), sodium hypochlorite (1 mL, 4%) and triethylamine (2 drops) in dichloromethane (2 mL) was stirred at room temperature for 5 d. The mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with water, and brine, dried over sodium sulfate, filtered and adsorbed onto silica gel. The residue was purified by flash column chromatography (65% ethyl acetate-hexanes) to afford the title compound (13 mg).

reactant | 2-chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(hydroxyimino-methyl)-benzamide | 0.15 mmol, 50 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=NO | C16H21ClN2O3
reactant | but-3-yn-1-ol | 0.38 mmol, 27 mg | C(CC#C)O | C4H6O
reactant | sodium hypochlorite | 1 mL | Cl[O-].[Na+]
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-[5-(2-hydroxy-ethyl)-isoxazol-3-yl]-benzamide | 13 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C1=NOC(=C1)CCO | C20H25ClN2O4
